US05286869
(E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl methyl 1,4-dihydro-2,6-dimethyl-4-(2-cyanophenyl)p-yridine-3,5-dicarboxylate:
297 mg (1 mM) of 3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl 3-aminocrotonate and 229 mg (1 mM) of methyl 2-(2-cyanobenzylidene)acetoacetate were dissolved in 5 ml of toluene and refluxed for six hours. After cooling, the crystals produced were filtered off and recrystallized from methanol whereby the captioned compound was obtained. The yield was 402 mg (79.1%).

reactant | 3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl 3-aminocrotonate | 1 mM, 297 mg | N\C(=C/C(=O)OCC=CC1=CC=C(C=C1)CC=1NC=CN1)\C | C17H19N3O2
reactant | methyl 2-(2-cyanobenzylidene)acetoacetate | 1 mM, 229 mg | C(#N)C1=C(C=C(C(=O)OC)C(=O)C)C=CC=C1 | C13H11NO3
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl methyl 1,4-dihydro-2,6-dimethyl-4-(2-cyanophenyl)p-yridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC\C=C\C1=CC=C(C=C1)CC=1NC=CN1)C1=C(C=CC=C1)C#N)C(=O)OC)C | C30H28N4O4
